US05232925
5-(4-[2-(N-Methyl-N-(2-pyrimidinyl)amino)ethoxy]benzyl)-2,4-thiazolidinedione
5-(4-[2-(N-Methyl-N-(2-pyrimidinyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione (2.4 g) in dry 1,4-dioxan (150 ml) was reduced under hydrogen in the presence of 10% palladium on charcoal (3 g) until hydrogen uptake ceased. The solution was filtered through diatomaceous earth, the filter pad was washed exhaustively with dioxan and the combined filtrates were evaporated to dryness under vacuum. The title compound (mp 150°-51° C.) was obtained after crystallisation from methanol.

reactant | 5-(4-[2-(N-Methyl-N-(2-pyrimidinyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione | 2.4 g | CN(C1=NC=CC=N1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C17H16N4O3S
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxan | 150 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
product | 5-(4-[2-(N-Methyl-N-(2-pyrimidinyl)amino)ethoxy]benzyl)-2,4-thiazolidinedione | CN(C1=NC=CC=N1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C17H18N4O3S
